US04764519
(g) 3-[3-(5-Bromo-3-methylpyrid-2-yl)propyl]-6-(3-pyridylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine
Sodium nitrite solution (1.02 g in 50 ml water) was added dropwise over 25 minutes to a stirred and cooled solution of 2-[3-(5-bromo-3-methylpyrid-2-yl)-propylamino]-3-amino-5-(pyrid-3-ylmethyl)pyridine (4.7 g) in sulphuric acid (molar, 200 ml) keeping the temperature at 4° C. Reaction was stirred at 4° C. for a further hour and was then left in the fridge overnight and then warmed to room temperature. The reaction mixture was basified to pH 13 with sodium hydroxide solution (10M). Chloroform extraction of the reaction mixture gave the crude product which was then chromatographed on silica in methanol/chloroform 1:19 and then recrystallised from acetonitrile to give the title compound (2.75 g), m.p. 109°-110° C.

reactant | Sodium nitrite | 50 ml, 1.02 g | N(=O)[O-].[Na+]
reactant | 2-[3-(5-bromo-3-methylpyrid-2-yl)-propylamino]-3-amino-5-(pyrid-3-ylmethyl)pyridine | 4.7 g | BrC=1C=C(C(=NC1)CCCNC1=NC=C(C=C1N)CC=1C=NC=CC1)C | C20H22BrN5
reactant | sodium hydroxide | 10M | [OH-].[Na+]
solvent | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 3-[3-(5-Bromo-3-methylpyrid-2-yl)propyl]-6-(3-pyridylmethyl)-3H-1,2,3-triazolo[5,4-b]pyridine | 2.75 g | BrC=1C=C(C(=NC1)CCCN1N=NC=2C1=NC=C(C2)CC=2C=NC=CC2)C | C20H19BrN6
